US05866684
1.54 g (4.44 mmol) of N-(tert-butoxycarbonyl)-3-cyclopentyl-L-alanine benzyl ester and 2.53 g (13.32 mmol) of 4-toluenesulphonic acid hydrate were dissolved in 20 ml of acetonitrile and the solution was left to standat room temperature for 18 hours. The white precipitate formed was filteredoff and added to a mixture of 867 mg (3.75 mmol) of N-(tert-butoxycarbonyl)-3-methyl-L-valine, 557 mg (3.64 mmol) of 1-hydroxybenzotriazole, 793 mg (4.14 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride and 475 mg (4.13 mmol) of N-ethylmorpholine in 25 ml of dichloromethane and stirred at room temperature for 18 hours. The solution was extracted with 2M hydrochloric acid and saturated sodium bicarbonate solution and then driedover anhydrous magnesium sulphate. Evaporation and chromatography on silicagel using ethyl acetate/petrol (1:3) for the elution gave 1.06 g of N-[N-(tert-butoxycarbonyl)-3-methyl-L-valyl]-3-cyclopentyl-L-alanine benzyl ester as an off-white foam; MS: m/e 461 [M+H].

reactant | N-(tert-butoxycarbonyl)-3-cyclopentyl-L-alanine benzyl ester | 4.44 mmol, 1.54 g | C(C1=CC=CC=C1)OC([C@@H](NC(=O)OC(C)(C)C)CC1CCCC1)=O | C20H29NO4
reactant | 4-toluenesulphonic acid hydrate | 13.32 mmol, 2.53 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | N-(tert-butoxycarbonyl)-3-methyl-L-valine | 3.75 mmol, 867 mg | C(C)(C)(C)OC(=O)N[C@@H](C(C)(C)C)C(=O)O | C11H21NO4
reactant | 1-hydroxybenzotriazole | 3.64 mmol, 557 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 4.14 mmol, 793 mg | Cl.CN(CCCN=C=NCC)C
reactant | N-ethylmorpholine | 4.13 mmol, 475 mg | C(C)N1CCOCC1 | C6H13NO
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | N-[N-(tert-butoxycarbonyl)-3-methyl-L-valyl]-3-cyclopentyl-L-alanine benzyl ester | 1.06 g | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](NC(=O)OC(C)(C)C)C(C)(C)C)=O)CC1CCCC1)=O | C26H40N2O5
